US07462623B2
4-(5-chloro-2,3-methylenedioxypyrid-4-ylamino)-7-(2,4-dimethoxybenzyloxy)-5-isopropoxyquinazoline
Using an analogous procedure to that described in Example 1, 4-chloro-7-(2,4-dimethoxybenzyloxy)-5-isopropoxyquinazoline was reacted with 4-amino-5-chloro-2,3-methylenedioxypyridine to give the title compound in 75% yield; NMR Spectrum: (CDCl3) 1.55 (d, 6H), 3.8 (s, 3H), 3.85 (s, 3H), 4.8 (m, 1H), 5.15 (s, 2H), 6.15 (s, 2H), 6.5 (m, 2H), 6.6 (s, 1H), 7.0 (s, 1H), 7.35 (d, 1H), 7.75 (s, 1H), 8.6 (s, 1H), 9.6 (s, 1H); Mass Spectrum: M+H+ 525 and 527.

reactant | 4-chloro-7-(2,4-dimethoxybenzyloxy)-5-isopropoxyquinazoline | ClC1=NC=NC2=CC(=CC(=C12)OC(C)C)OCC1=C(C=C(C=C1)OC)OC | C20H21ClN2O4
reactant | 4-amino-5-chloro-2,3-methylenedioxypyridine | NC1=C2C(=NC=C1Cl)OCO2 | C6H5ClN2O2
product | 4-(5-chloro-2,3-methylenedioxypyrid-4-ylamino)-7-(2,4-dimethoxybenzyloxy)-5-isopropoxyquinazoline | 75% yield | ClC=1C(=C2C(=NC1)OCO2)NC2=NC=NC1=CC(=CC(=C21)OC(C)C)OCC2=C(C=C(C=C2)OC)OC | C26H25ClN4O6
